US04356207
5-(3,5-dihydroxyphenoxy)-1H-tetrazole
A mixture of 38.3 g. of 5-(3,5-dimethoxyphenoxy)-1H-tetrazole, 68 g. of anhydrous aluminum chloride, and 400 ml. of benzene was heated under reflux for about one and one-half hours. A mixture of 150 ml. of water and 30 ml. of methanol was added slowly to the aluminum chloride mixture. The solution was then stirred and allowed to cool. The aqueous layer was separated and extracted with ethyl acetate. After the ethyl acetate was evaporated, the product was crystallized from water. The weight of the product obtained was 28.2 g. and its melting point was 191°-193° C. The following elemental analysis was obtained:

reactant | 5-(3,5-dimethoxyphenoxy)-1H-tetrazole | COC=1C=C(OC2=NN=NN2)C=C(C1)OC | C9H10N4O3
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 5-(3,5-dihydroxyphenoxy)-1H-tetrazole | OC=1C=C(OC2=NN=NN2)C=C(C1)O | C7H6N4O3
